US05807859
A mixture of 21.4 g of acetic anhydride and 11.5 g of formic acid is heated for 2 hours at a temperature between 50° C. and 60° C., and cooled to 20° C. 0.9 g of anhydrous sodium acetate is then added followed, after dissolution, by 2.75 g of 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride. The mixture is stirred for 1 hour at 20° C. and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 50° C. The product obtained (4.3 g) is dissolved in 50 ml of dimethylformamide and, after addition of decolorizing charcoal, the solution is filtered. 200 ml of distilled water are then added to the filtrate and the mixture is stored for 1 hour at a temperature in the region of 5° C. The insoluble product formed is isolated by filtration, washed with 10 ml of distilled water and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 1.2 g of 10-formamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained, melting at 280° C. (decomposition) (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 6.22 (d, J=8.5 Hz, 1H: --CH-- 10); 7.36 and 7.45 (2 broad t, J=8 Hz, 2H: --H 7 and --H 8); 7.51 and 7.87 (2 broad d, J=8 Hz, 2H: --H 6 and --H 9); 7.58 and 7.64 (2s, 1H each: --H of the imidazole); 8.44 (s, 1H: --CH=O); 8.78 (d, J=8.5 Hz, 1H: --CONH at 10); 12.50 (broad s, 1H: --CONH-- of the ring)).

reactant | acetic anhydride | 21.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.9 g | C(C)(=O)[O-].[Na+]
reactant | 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 2.75 g | Cl.NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O
reactant | charcoal | C | CH4
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | formic acid | 11.5 g | C(=O)O | CH2O2
product | 10-formamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.2 g | C(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H10N4O2
